US05126448
In a mixed solvent of 30 ml of methanol and 20 ml of chloroform was dissolved 6 g of 2-tert-butoxycarbonyl-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-carboxylic acid ethyl ester and 4 ml of an aqueous solution of 5N sodium hydroxide was further added thereto, and then the solution was refluxed for 5 hours. The solvents were distilled off under reduced pressure and 300 ml of 5% citric acid and 300 ml of chloroform were added to the residue. The chloroform layer was washed with a saturated aqueous sodium chloride solution and then dried by sodium sulfate. After distilling off chloroform under reduced pressure, the residue formed was recrystallized from a mixture of chloroform and hexane to provide 4.15 g (yield of 75%) of 2-tert-butoxycarbonyl-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carboxylic acid.

reactant | 2-tert-butoxycarbonyl-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-carboxylic acid ethyl ester | 6 g | C(C)OC(=O)C1(CC2C3(C(=NCC2)C=CC=C3)S1)C(=O)OC(C)(C)C | C19H25NO4S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | methanol | 30 ml | CO | CH4O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-tert-butoxycarbonyl-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carboxylic acid | 4.15 g, yield of 75% | C(C)(C)(C)OC(=O)C1C(C2C3(C(=NCC2)C=CC=C3)S1)C(=O)O | C17H21NO4S
